US04968829
Following the procedures of Example 1, isopropyl 2-chloroethylcarbamate is prepared and is then reacted with 4-(3-methyl-2-butenoxy)phenol to give isopropyl N-{2-[4-(3-methyl-2-butenoxy) phenoxy]ethyl}carbamate, MS m/e 307 (M+).

reactant | isopropyl 2-chloroethylcarbamate | ClCCNC(OC(C)C)=O | C6H12ClNO2
reactant | 4-(3-methyl-2-butenoxy)phenol | CC(=CCOC1=CC=C(C=C1)O)C | C11H14O2
product | isopropyl N-{2-[4-(3-methyl-2-butenoxy) phenoxy]ethyl}carbamate | CC(=CCOC1=CC=C(OCCNC(OC(C)C)=O)C=C1)C | C17H25NO4
